US05563280
Preparation of 4-(2,6-dichlorophenoxy)-6-(N-methylcarbamoyl)coumarin
A solution of 4-(2,6-dichlorophenoxy)-6-hydroxycoumarin (0.5 g, 1.55 mmole) in dimethyl formamide, under nitrogen, at room temperature is treated with triethylamine (0.7 mL, 5 mole), then treated with CH3NCO (0.5 mL, 5.5 mole) and allowed to stir at room temperature for about 1 hour. When the reaction is complete by HPLC analysis, the reaction mixture is poured onto water and extracted with methylene chloride. The extracts are concentrated in vacuo to give a residue. The residue is crystallized from methylene chloride/hexane to afford the title product as white crystals, 0.382 (71% yield), mp 292°-299° C., identified by 1HNMR, 13CNMR and IR analyses.

reactant | 4-(2,6-dichlorophenoxy)-6-hydroxycoumarin | 1.55 mmole, 0.5 g | ClC1=C(OC2=CC(OC3=CC=C(C=C23)O)=O)C(=CC=C1)Cl | C15H8Cl2O4
reactant | triethylamine | 5 mole, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | CH3NCO | 5.5 mole, 0.5 mL | CN=C=O | C2H3NO
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 4-(2,6-dichlorophenoxy)-6-(N-methylcarbamoyl)coumarin | ClC1=C(OC2=CC(OC3=CC=C(C=C23)C(NC)=O)=O)C(=CC=C1)Cl | C17H11Cl2NO4
